US08314108B2
5-(5-(2-Methoxy-6-(4-methoxybenzyloxy)phenyl)-1H-pyrazol-3-ylamino)pyrazine-2-carbonitrile
A 10 L flange-neck flask, equipped with an air stirrer rod and paddle, thermometer, water condenser, and nitrogen bubbler, is charged with (E)-5-(3-(2-methoxy-6-(4-methoxybenzyloxy)phenyl)-1-(methylthio)-3-oxoprop-1-enylamino)pyrazine-2-carbonitrile (196 g, 423.8 mmol) and absolute ethanol (3 L). To the stirred suspension under nitrogen is added hydrazine hydrate (41.0 mL, 838.7 mmol) and glacial acetic acid (66.0 mL, 1.15 moles). A small exotherm is noted. The yellow suspension is warmed up to 65° C. Heating is then discontinued and the reaction mixture is allowed to cool to room temperature. The mixture is allowed to stand overnight under a nitrogen atmosphere. The solid is collected by filtration, washed with fresh ethanol, and dried in vacuo at 45° C. to give 140 g (87% yield for two steps) of a bright yellow solid. The product is used in the next step without further purification. LC-ES/MS m/z 429.2 [M+H]+.

reactant | (E)-5-(3-(2-methoxy-6-(4-methoxybenzyloxy)phenyl)-1-(methylthio)-3-oxoprop-1-enylamino)pyrazine-2-carbonitrile | 423.8 mmol, 196 g | COC1=C(C(=CC=C1)OCC1=CC=C(C=C1)OC)C(/C=C(/SC)\NC=1N=CC(=NC1)C#N)=O | C24H22N4O4S
reactant | hydrazine hydrate | 838.7 mmol, 41.0 mL | O.NN
reactant | acetic acid | 1.15 moles, 66.0 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 3 L | C(C)O | C2H6O
product | 5-(5-(2-Methoxy-6-(4-methoxybenzyloxy)phenyl)-1H-pyrazol-3-ylamino)pyrazine-2-carbonitrile | 87% yield | COC1=C(C(=CC=C1)OCC1=CC=C(C=C1)OC)C1=CC(=NN1)NC=1N=CC(=NC1)C#N | C23H20N6O3
